US07262212B2
Sodium acetate (3.51 g, 42.82 mmol) and 2-(2-methoxymethoxyethyl)oxirane (10.3 g, 77.86 mmol) were added to 2-chloro-4-nitro-1H-imidazole (5.74 g, 38.93 mmol) in ethanol (60 ml), and the resulting mixture was stirred under reflux for 13.5 hours. The reaction mixture was concentrated under reduced pressure. Water was added to the residue, and the resulting mixture was extracted with methylene chloride. The extract was dried over magnesium sulfate and then concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride/methanol=100/1) and then crystallized from methylene chloride-diisopropyl ether to afford 2-chloro-1-(2-hydroxy-4-methoxymethoxybutyl)-4-nitroimidazole (8.51 g, yield 78%) as a light yellow powder.

reactant | Sodium acetate | 42.82 mmol, 3.51 g | C(C)(=O)[O-].[Na+]
reactant | 2-(2-methoxymethoxyethyl)oxirane | 77.86 mmol, 10.3 g | COCOCCC1OC1 | C6H12O3
reactant | 2-chloro-4-nitro-1H-imidazole | 38.93 mmol, 5.74 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-chloro-1-(2-hydroxy-4-methoxymethoxybutyl)-4-nitroimidazole | 8.51 g, yield 78% | ClC=1N(C=C(N1)[N+](=O)[O-])CC(CCOCOC)O | C9H14ClN3O5
